US06586633B1
Production of N-(3-Bromo-4-fluorobenzyl)methylamine
To 40% solution of methylamine in methanol (100 ml) with being stirred under ice cooling was added dropwise 3-bromo-4-fluorobenzylbromide (13.04 g; 48.7 mmol) in methanol (10 ml). The mixture was brought to room temperature, and stirred for 91 hours. The reaction mixture was concentrated under reduced pressure, and the residue was taken up in water. The mixture was alkalinized with sodium hydroxide, followed by extraction with ether (160 ml). The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=1:0→10:1), to thereby yield 6.25 g of the target compound (yield: 58.9%).

reactant | methylamine | CN | CH5N
reactant | 3-bromo-4-fluorobenzylbromide | 48.7 mmol, 13.04 g | BrC=1C=C(CBr)C=CC1F | C7H5Br2F
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | N-(3-Bromo-4-fluorobenzyl)methylamine | yield 6.25 g, yield: 58.9% | BrC=1C=C(CCN)C=CC1F | C8H9BrFN
